US08431563B2
To a 100-mL round-bottomed flask was added 2-(3-methoxybenzyl)piperazine (128 mg, 0.62 mmol), 5 mL of CH2Cl2, triethylamine (0.129 mL, 0.93 mmol) and 2-thiophenesulfonyl chloride (0.113 mL, 0.62 mmol, Aldrich, St. Louis, Mo.). The reaction mixture was stirred at 0° C. for 1 h and then diluted with aqueous saturated NaHCO3 (5 mL) and extracted with EtOAc (2×30 mL). The organic extracts were washed with saturated NaCl (10 mL) and dried over Na2SO4. The solution was filtered and concentrated in vacuo to give the crude material as a light-yellow oil. The crude product was purified by silica gel chromatography, eluting with 5% MeOH in EtOAc to give 3-(3-methoxybenzyl)-1-(thiophen-2-ylsulfonyl)piperazine as a colorless oil (162 mg).

reactant | 2-(3-methoxybenzyl)piperazine | 0.62 mmol, 128 mg | COC=1C=C(CC2NCCNC2)C=CC1 | C12H18N2O
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 0.93 mmol, 0.129 mL | C(C)N(CC)CC | C6H15N
reactant | 2-thiophenesulfonyl chloride | 0.62 mmol, 0.113 mL | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
product | 3-(3-methoxybenzyl)-1-(thiophen-2-ylsulfonyl)piperazine | 162 mg | COC=1C=C(CC2CN(CCN2)S(=O)(=O)C=2SC=CC2)C=CC1 | C16H20N2O3S2
